US07622589B2
To a THF (25 ml) suspension of methyltriphenylphosphonium bromide (3.8 g, 10.6 mmol) was added 1.60 M n-butyllithium in hexane solution (6.7 ml, 10.6 mmol) at 0° C. and the reaction was stirred for 30 minutes. Then the THF (5 ml) solution of the compound of Example 46C (1.3 g, 5.3 mmol) was added to at room temperature and stirred for 1 hour at room temperature. The reaction was quenched with saturated ammonium chloride aqueous solution, and the whole was extracted with EtOAc, dried over magnesium sulfate, and evaporated. The crude residue was purified by silica gel column chromatography, eluting with hexane/EtOAc (10:1), to give 2-pyrrolidin-1-yl-6-(trifluoromethyl)-3-vinylpyridine (1.03 g, 80%, trans). To a toluene (15 ml) solution of 2-pyrrolidin-1-yl-6-(trifluoromethyl)-3-vinylpyridine (1.03 g, 4.3 mmol), Co(TPP) (142 mg, 0.2 mmol) and 1-methyl-1H-imidazole (1.22 ml, 14.9 mmol), ethyldiazoacetate (1.0 ml, 8.5 mmol) was added and the mixture was stirred for 5 minutes at room temperature followed by additional stirring for 2 hour at 80° C. Then, evaporation and purification by silica gel column chromatography, eluting with hexane/EtOAc (20:1), gave ethyl 2-[2-pyrrolidin-1-yl-6-(trifluoromethyl)pyridin-3-yl]cyclopropanecarboxylate (1.3 g, 93%). To a THF (10 ml) solution of this compound (1.3 g, 4.0 mmol), 2M sodium hydroxide aqueous solution (15 ml) and MeOH (15 ml) were added and the mixture was stirred for 2 hours at room temperature. After the reaction was completed, the aqueous layer was extracted and then acidified with 2M HCl aqueous solution. The whole was extracted with EtOAc followed by evaporation to give the title compound (1.1 g, 92%).

reactant | 2-pyrrolidin-1-yl-6-(trifluoromethyl)-3-vinylpyridine | 4.3 mmol, 1.03 g | N1(CCCC1)C1=NC(=CC=C1C=C)C(F)(F)F | C12H13F3N2
reactant | 1-methyl-1H-imidazole | 14.9 mmol, 1.22 ml | CN1C=NC=C1 | C4H6N2
reactant | ethyldiazoacetate | 8.5 mmol, 1.0 ml | C(C)OC(C=[N+]=[N-])=O | C4H6N2O2
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-[2-pyrrolidin-1-yl-6-(trifluoromethyl)pyridin-3-yl]cyclopropanecarboxylate | 1.3 g, 93% | N1(CCCC1)C1=NC(=CC=C1C1C(C1)C(=O)OCC)C(F)(F)F | C16H19F3N2O2
